US07282588B2
7-bromo-2-methyl-1,2,3,4-tetrahydroisoquinoline
Following the procedure described for Intermediate 3 using 7-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride and iodomethane provided the title compound. ESMS [M+H]+: 226.0.

reactant | 7-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.BrC1=CC=C2CCNCC2=C1
reactant | iodomethane | IC | CH3I
product | 7-bromo-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC1=CC=C2CCN(CC2=C1)C | C10H12BrN
